US05212320
To a solution of indole (366 mg) in tetrahydrofuran (5 ml) was added 3M solution of methyl magnesium bromide in ether (1.5 ml) at 20° C., and the mixture was stirred at 20° C. for 1 hour. A solution of 4-[2,2-bis(4-isobutylphenyl)ethyl]benzoyl chloride (450 mg) in tetrahydrofuran (5 ml) was added to the mixture at 20° C. After stirred at 20° C. for 30 minutes, the mixture was poured into a mixture of 1N hydrochloric acid and ethyl acetate. The organic layer was separated, washed with water, aqueous sodium bicarbonate and brine, and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by column chromatography on silica gel (10 g) eluting with a mixture of hexane and ethyl acetate (20:1) to give 3-[4-[2,2-bis(4-isobutylphenyl)ethyl]benzoyl]indole (90 mg) as colorless crystals.

reactant | indole | 366 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | methyl magnesium bromide | C[Mg]Br
reactant | 4-[2,2-bis(4-isobutylphenyl)ethyl]benzoyl chloride | 450 mg | C(C(C)C)C1=CC=C(C=C1)C(CC1=CC=C(C(=O)Cl)C=C1)C1=CC=C(C=C1)CC(C)C | C29H33ClO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ether | 1.5 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-[2,2-bis(4-isobutylphenyl)ethyl]benzoyl]indole | 90 mg | C(C(C)C)C1=CC=C(C=C1)C(CC1=CC=C(C(=O)C2=CNC3=CC=CC=C23)C=C1)C1=CC=C(C=C1)CC(C)C | C37H39NO
